US04558143
To a mixture of 1.12 g (10 mmoles) of 1,3-cyclohexanedione and 8 ml of water was added 1.38 g (10 mmoles) of potassium carbonate, and then 2 ml of 40% aqueous solution of chloroacetaldehyde was added thereto. The resulting mixture was stirred at a room temperature for 45 hours. The reaction mixture was maintained at a pH of from 7.75 to 9.50 throughout the reaction. After completing the reaction, the obtained reaction mixture was treated and analyzed in the same manner as in Example 1. It was proved from the results of the analysis that 4-oxo-4,5,6,7-tetrahydrobenzofuran was produced in a 68% yield.

reactant | 1,3-cyclohexanedione | 10 mmoles, 1.12 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | potassium carbonate | 10 mmoles, 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetaldehyde | ClCC=O | C2H3ClO
solvent | water | 8 ml | O | H2O
product | 4-oxo-4,5,6,7-tetrahydrobenzofuran | 68% yield | O=C1CCCC2=C1C=CO2 | C8H8O2
